US08067445B2
Step 2: {2′-[(Acetyl-carbamoylmethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: {2′-[(carbamoylmethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester and acetyl chloride.

reactant | {2′-[(carbamoylmethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC(N)=O)=O | C20H21F3N2O4
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | {2′-[(Acetyl-carbamoylmethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CC(N)=O)C(C)=O)=O | C22H23F3N2O5
